US07199125B2
(4R)-1-{[(3,5-dichlorophenyl)amino]carbonyl}-4-hydroxy-L-proline
To a clear solution of L-trans-4-hydroxy-proline (10 g) (0.076 mol) and K2CO3 (15.7 g) (1.1 eq.) in 100 mL of water and 10 mL of THF, was added by portions 3,5-dichlorophenyl isocyanate (15.7 g) (1.1 eq.). The white suspension was stirred at RT overnight. The aqueous mixture was acidified with conc. HCl, ,then extracted with EtOAc. The organic extracts were combined, washed with water, dried over MgSO4, filtered, and the solvent removed in vacuo to afford the titled compound (19 g) (yield 78.5%). 1H NMR (DMSOd6): 8.7 (1H,COOH), 7.65 (2H,d), 7.1 (1H,m), 5.2 (1H,NH), 4.4 (2H,m), 3.6 (1H,dd), 3.45 (1H,d), 2.1–2.25 (1H, m), 1.85–2.05 (1H,m).

reactant | L-trans-4-hydroxy-proline | 0.076 mol, 10 g | C1[C@H](CN[C@@H]1C(=O)O)O | C5H9NO3
reactant | K2CO3 | 15.7 g, 1.1 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 3,5-dichlorophenyl isocyanate | 15.7 g, 1.1 eq. | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
reactant | HCl | Cl | ClH
solvent | water | 100 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (4R)-1-{[(3,5-dichlorophenyl)amino]carbonyl}-4-hydroxy-L-proline | 19 g, yield 78.5% | ClC=1C=C(C=C(C1)Cl)NC(=O)N1[C@H](C(=O)O)C[C@H](C1)O | C12H12Cl2N2O4
